US05770584
A. Preparation of (+)-3-Octadecanamido-1,2-propanediol
To a mechanically stirred solution of 3-amino-1,2-propanediol (32 g, 0.35 mol) in 100 mL of pyridine and 250 mL of DMF was added a solution of stearoyl chloride (100.0 g, 0.33 mol) in 150 mL of DMF. After stirring for 1 h, precipitation occurred and an additional 100 mL of DMF was added. After 2 h, the gelatinous mass was filtered, washed with water, and air dried. The solid was recrystallized successively from EtOH, isopropanol, and chloroform to give 74 g (63%) as a white powder (mp 111.5°-113.5° C.). 1H-NMR: 0.86 (t,3H, CH3), 1.25 (broad m, 28H, (CH2)14), 1.55 (m, 2H, NHCOCH2CH2), 2.20 (t, 2H NHCOCH2), 3.4 (m, 2H, CH2NH), 3.55 (d, 2H, CH2OH). 3.75 (m, 1H, CH), 5.8 (m, 1H, NH).

reactant | 3-amino-1,2-propanediol | 0.35 mol, 32 g | NCC(CO)O | C3H9NO2
reactant | stearoyl chloride | 0.33 mol, 100.0 g | C(CCCCCCCCCCCCCCCCC)(=O)Cl | C18H35ClO
solvent | pyridine | 100 mL | N1=CC=CC=C1 | C5H5N
solvent | DMF | 250 mL | CN(C)C=O | C3H7NO
solvent | DMF | 150 mL | CN(C)C=O | C3H7NO
product | (+)-3-Octadecanamido-1,2-propanediol | C(CCCCCCCCCCCCCCCCC)(=O)NCC(CO)O | C21H43NO3
